US08486967B2
2-[2-[1-(3-Methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamino]-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol
A solution of 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine dihydrochloride (54.2 mg, 0.2 mmol), 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol (69.7 mg, 0.22 mmol) and N,N-diisopropylethyl amine (120 L, 0.7 mmol) in dioxane (2 mL) was heated at 200° C. in a microwave oven for 2 hours. The reaction was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel with CH2Cl2/MeOH 19:1 (v/v) as eluent. The title compound was obtained as a brown viscous oil (26 mg, 27%). MS ISP (m/e): 479.1 (100) [(M+H)+].

reactant | 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamine dihydrochloride | 0.2 mmol, 54.2 mg | Cl.Cl.CC1=NSC(=N1)N1CCC(CC1)N
reactant | 2-[2-chloro-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol | 0.22 mmol, 69.7 mg | ClC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)C(F)(F)F | C14H12ClF3N2O
reactant | N,N-diisopropylethyl amine | 0.7 mmol, 120 L | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-[2-[1-(3-Methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-ylamino]-6-(4-trifluoromethyl-phenyl)-pyrimidin-4-yl]-propan-2-ol | CC1=NSC(=N1)N1CCC(CC1)NC1=NC(=CC(=N1)C(C)(C)O)C1=CC=C(C=C1)C(F)(F)F | C22H25F3N6OS
